US06583135B2
3-Benzoyl-10-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (4.00 g, 10.8 mmol) was suspended in benzene (170 mL). 2-(Trifluoromethoxy)phenylboronic acid (4.48 g, 21.7 mmol), trans-dichlorobis(triphenylphosphine)palladium(II) (0.433 g, 0.617 mmol) and 2M Na2CO3 (17.6 mL) were added to the reaction mixture. Ar was bubbled through the reaction mixture for 20 min. The reaction mixture was heated at reflux for 11 h. After cooling, the reaction mixture was concentrated. The residue was combined with EtOAc (250 mL) and H2O (400 mL). The layers were separated and the aqueous layer was extracted with EtOAc (2×100 mL). The combined organic layers were dried over MgSO4, filtered and concentrated. The crude product (7.95 g) was recrystallized from CH3OH to yield 3-benzoyl-10-[2-(trifluoromethoxy)phenyl]-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (1.43 g). The crude product from the mother liquors was chromatographed (SiO2 250 g, eluted with 2:1 toluene:EtOAc) to give 3-benzoyl-10-[2-(trifluoromethoxy)phenyl]-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (5.21 g). The yield of the reaction was 87%. IR (diffuse reflectance) 3266, 3227, 3187, 1615, 1574, 1498, 1483, 1464, 1428, 1382, 1354, 1334, 1323, 1288, 1253, 1221, 1202, 1167, 926, 790, 767, 750, 732, 704, 626 cm−1; MS (ESI+) for C26H21F3N2O2 m/z 450.9 (M+H)+; Anal. Calcd for C26H21F3N2O2: C, 69.32; H,4.70; N, 6.22; found: C, 69.25; H, 4.78; N, 6.25.

reactant | 3-Benzoyl-10-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 10.8 mmol, 4.00 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)Br | C19H17BrN2O
reactant | 2-(Trifluoromethoxy)phenylboronic acid | 21.7 mmol, 4.48 g | FC(OC1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O3
reactant | Na2CO3 | 2M, 17.6 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | benzene | 170 mL | C1=CC=CC=C1 | C6H6
catalyst | trans-dichlorobis(triphenylphosphine)palladium(II) | 0.617 mmol, 0.433 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-benzoyl-10-[2-(trifluoromethoxy)phenyl]-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 1.43 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)C1=C(C=CC=C1)OC(F)(F)F | C26H21F3N2O2
